US07547691B2
[4-(7-Bromobenzo[b]thiophen-2-yl)-5-methylpyrimidin-2-yl]-[3-(4-methylpiperazin-1-yl)-propyl]-amine
Using the method of [4-(6-bromobenzo[b]thiophen-2-yl)-5-methylpyrimidin-2-yl]-[3-(4-methylpiperazin-1-yl)-propyl]-amine tri-hydrochloride, the title compound is prepared from 7-bromobenzo[b]thiophene and isolated as a solid. ES+(m/z) 460 (79Br) and 462 (81Br) [M+H].

reactant | [4-(6-bromobenzo[b]thiophen-2-yl)-5-methylpyrimidin-2-yl]-[3-(4-methylpiperazin-1-yl)-propyl]-amine tri-hydrochloride | Cl.Cl.Cl.BrC=1C=CC2=C(SC(=C2)C2=NC(=NC=C2C)NCCCN2CCN(CC2)C)C1
reactant | 7-bromobenzo[b]thiophene | BrC1=CC=CC2=C1SC=C2 | C8H5BrS
product | [4-(7-Bromobenzo[b]thiophen-2-yl)-5-methylpyrimidin-2-yl]-[3-(4-methylpiperazin-1-yl)-propyl]-amine | BrC1=CC=CC2=C1SC(=C2)C2=NC(=NC=C2C)NCCCN2CCN(CC2)C | C21H26BrN5S
